US09340546B2
To a solution of 7-tert-butoxycarbonyl-6,8-dihydro-5H-2,7-naphthyridine-4-carboxylic acid (440 mg, 1.581 mmol) in NMP (6 mL) was added TEA (207.9 mg, 286.4 μL, 2.055 mmol) followed by diphenylphosphoryl azide (478.6 mg, 374.8 μL, 1.739 mmol) at rt under nitrogen. The reaction was heated to 90° C. for 2 hours. At RT, the reaction mixture was partitioned between an aqueous saturated solution of NaHCO3 and EtOAc. Combined organic extract was washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by chromatography on silica, eluting with 1-15% MeOH:DCM to yield tert-butyl 5-amino-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate. (397 mg, 100.7%). MS (2ES+) 501.2.

reactant | 7-tert-butoxycarbonyl-6,8-dihydro-5H-2,7-naphthyridine-4-carboxylic acid | 1.581 mmol, 440 mg | C(C)(C)(C)OC(=O)N1CCC=2C(=CN=CC2C1)C(=O)O | C14H18N2O4
reactant | diphenylphosphoryl azide | 1.739 mmol, 374.8 μL, 478.6 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | NMP | 6 mL | CN1CCCC1=O | C5H9NO
product | tert-butyl 5-amino-3,4-dihydro-2,7-naphthyridine-2(1H)-carboxylate | NC1=C2CCN(CC2=CN=C1)C(=O)OC(C)(C)C | C13H19N3O2
